US04038396
To a cold solution of 35 ml. of fuming sulfuric acid and 45 ml. of fuming nitric acid was added 35 grams of the 4-hydroxypyridine nitrate. After allowing the mixture to warm to room temperature over night it was heated on a steam bath for 21/4 hours. It was cooled and poured onto 500 grams of ice. The resulting precipitate was collected on a filter, washed with a minimum of water and recrystallized from water to give 3-nitro-4-pyridone, m.p. 282°-284° C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 4-hydroxypyridine nitrate | 35 grams | [N+](=O)(O)[O-].OC1=CC=NC=C1
product | 3-nitro-4-pyridone | [N+](=O)([O-])C1C=NC=CC1=O | C5H4N2O3
